Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics) / fish / phenytoin
 
Attending: ___.
 
Chief Complaint:
Seizure, AMS, respiratory failure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old man with a history of HCV cirrhosis 
s/p  renal and liver transplant in ___ with re-do liver 
transplant  in ___ (on tacrolimus and prednisone 5 mg daily), 
subsequently  diagnosed with glioblastoma multiforme now s/p 
bavacizumab (stopped due to proteinuria), temozolamide 
___ held),  and radiation therapy (ending 
___, cyberknife therapy last session ___, course c/b 
MRSA surgical site infection (cranium osteomyelitis for which he 
is on chronic doxycycline suppression) with history of IV drug 
abuse on methadone admitted ___ with worsening 
shaking/tremors, in the setting of progression of his corpus 
collosum GBM s/p FICU course for monitoring after a seizure-like 
episode and subsequent obtundation which responded to Narcan 
thought to be possibly due to methadone overdose. Loaded on 
Depakote and discharged on Depakote of 500mg BID. During that 
admission he had an LP which ruled out leptomeningeal spread.  
Patient was treated with labetalol 300mg TID and diltiazem ER 
240 mg PO daily and lisinopril 20mg daily.  During his 
hospitalization he was found to thrombocytopenia thought to be 
related to his Depakote which was reduced as a result. He was 
discharged on amoxicillin to complete a course for a proteus 
UTI. 

Patient presented to OSH ED  with question of status epilepticus 
(per ED report seizing for 25 min) at the rehab.  He was 
intubated on arrival to the OSH.  Patient was given 2mg Ativan, 
1g Keppra, 500mg valproic acid, fluids. EEG showed no seizure 
activity was transferred here at the advice of Dr. ___. 
___ there showed interval development of hydrocephalus but no 
evidence of intracranial hemorrhage mass effect. Transferred to 
___ for further management. Initial vitals 49 16 210/70 100% 
intubated. Labs significant for hemoglobin 12.8 (baseline, WBC 
13.6, plt 319. Cr 1.2 (BASELINE).  

Patient was seen by neuro in the ED Depakote level was drawn. 
Diagnosis thought to be complications of GBM vs PRESS from HTN. 
Recommendations were to start patient on 500mg q6 of Depakote 
and MRI brain w/ and w/o contrast.  Instructions to have BPs 
have been high BP goal 160 or less due to concern for PRESS 

On arrival to the MICU, patient was intubated and sedated. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___ Confusion and somnolence started 
___ ED visit 
___ CT ___ showed corpus callosum mass
___ Brain MRI showed mass in the splenium of the corpus
callosum
___ Brain biopsy by Dr. ___ 
___: Glioblastoma
___ Seizure
___ Port placed 
___ - ___ IMRT/TMZ to 6000 cGy over 30 fractions
___ Port clotted
___ Left port replacement
___ C1D1 Bevacizumab 10 mg/kg   
___ C1D15 Bevacizumab 10 mg/kg 
___ C2D1 Bevacizumab 10 mg/kg 
___ Syncope 
___ CT ___ showed decrease in size of mass lesion 
___ Urine Protein > 600
___ 24hr Protein/Creatinine Ratio 12.4 (0 - 2 mg)
___ Brain MRI: increase in the non-enhancing necrotic
component and decrease in the enhancing nodular component.  
Decrease in the size of the cavum vergae 
___ Renal U/S: No hydronephrosis
___ Started Diltiazem ER 120mg daily as per renal recs
___ to ___ Completed cycle 1 adjuvant temozolomide at 125
mg/m2/day x 5 days
___ Noted to have purulent drainage at the incision site in
rehab facility 
___ admitted to neurosurgery service at ___ for wound
debridement and washout
___ MRI: mass lesion decreased in size and enhancement from
the MRI ___ 
___ admitted to ___ for wound dehiscence. Had wound
washout, wound exploration
___ Return home from skilled nursing facility on ___
with services
___ to ___ Admission to ___ Hospitalist Service for
weakness and altered mental status
___ to ___ Completed cycle 2 adjuvant temozolomide at
150 mg/m2/day x 5 days
___ to ___ Completed cycle 3 adjuvant temozolomide at
150 mg/m2/day x 5 days
___ Port flushed at ___ per protocol with
good blood return 
___ ED at ___ for hypertension.
___ ED at ___ for weakness
and electrolyte imbalance. 
___ to ___ Completed cycle 4 adjuvant temozolomide at
175 mg/m2/day x 5 days
___ Infectious disease evaluation for scalp wound drainage.

PAST MEDICAL HISTORY:
- hepatitis C cirrhosis complicated by renal failure status post
liver-kidney transplant, ___, with a redo liver
transplant on ___ for hepatic arterial thrombosis
- Salmonella gastroenteritis
- Nephrolithiasis, s/p lithotripsy in ___
- Diabetes mellitus
- Hypertension, on antihypertensives
- ITP, s/p splenectomy in ___
- Asthma
- Laparoscopic incisional hernia repair with mesh on ___ with hemoperitoneum requiring evacuation
- Genotype 1A hepatitis C with recurrent fibrosis stage I-II on 
liver biopsy ___ s/p 12 weeks Harvoni and ribavirin
- ID history: surgical site wound: MRSA cranial osteomyelitis:
After stereotactic brain biopsy ___ he developed surgical 
site infection with wound dehiscence requiring washout and 
removal of cranial hardware ___ swab grew MRSA. He had 
additional washout with flap closure performed on ___. He 
was treated initially with vancomycin and was transitioned to 
linezolid on ___ for convenience. He completed 8 weeks of 
treatment on ___ and was transitioned to indefinite 
doxycycline suppression. He had complete healing of his scalp 
wound and was doing well at his transplant ID evaluation ___
 
Social History:
___
Family History:
His family history is significant for an aunt and uncle with 
diabetes.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
==============================
VITAL SIGNS:  Temperature 97.7 F, blood pressure 191/131, pulse 
83, respiration 17, and oxygen saturation 100% intubated 
GENERAL: intubated and sedated unresponsive to voice. Retracts 
to painful stimuli 
HEENT: Sclera anicteric, dry MM,  
CHEST: left port without surrounding erythema   
LUNGS: transmitted vent sounds 
CARDIOVASCULAR: Regular rate and rhythm, 
ABDOMEN: soft, non-tender, non-distended, bowel sounds present
EXTREMITIES: Warm, well perfused, 2+ pulses, no edema  
NEUROLOGICAL EXAMINATION:  Pupils are equal and reactive. 
withdrawing to tactile stim except for right upper (which 
appears to be new) 

DISCHARGE PHYSICAL EXAMINATION:
==============================
EXPIRED
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:05PM BLOOD WBC-13.6* RBC-4.32* Hgb-12.8* Hct-38.2* 
MCV-88 MCH-29.6 MCHC-33.5 RDW-16.8* RDWSD-53.8* Plt ___
___ 10:05PM BLOOD ___ PTT-23.7* ___
___ 10:05PM BLOOD Glucose-218* UreaN-26* Creat-1.2 Na-139 
K-4.6 Cl-107 HCO3-19* AnGap-18
___ 10:05PM BLOOD ALT-50* AST-25 AlkPhos-110 TotBili-0.4
___ 02:42AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.7
___ 10:05PM BLOOD Valproa-34*
___ 04:53AM BLOOD tacroFK-2.0*
___ 02:27AM BLOOD Type-ART Temp-36.5 Rates-___/ Tidal V-500 
PEEP-5 FiO2-40 pO2-149* pCO2-36 pH-7.50* calTCO2-29 Base XS-5 
-ASSIST/CON Intubat-INTUBATED
___ 10:16PM BLOOD Lactate-1.9

IMAGING/STUDIES:
=================
___ shoulder X-ray: 
No evidence of acute fracture or dislocation.  Moderate 
degenerative changes seen in the AC joint, with the glenohumeral 
joint essentially within normal limits and no abnormal 
calcification soft tissues. 

___ Abdomen X-ray
IMPRESSION: 
No evidence of obstruction or perforation.

___ EEG: This is an abnormal continuous ICU EEG monitoring 
study because of a slow and disorganized background with 
prolonged periods of voltage suppression. Interval results were 
conveyed to the treating team intermittently during this 
recording period to assist with ___ medical 
decision-making.

___ MR ___ without Contrast: 
1. Study is severely degraded by motion.
2. Interval progression of posterior fossa and brainstem 
parenchymal signal intensity abnormalities, including areas of 
nodular enhancement, as described,concerning for tumor 
progression.
3. Redemonstration of previously noted corpus callosum mass, 
grossly unchanged compared to ___ prior exam.
4. Grossly stable ventricular size compared to ___ 
prior exam, and question mild increase in the ventricular size 
without definite ventriculomegaly compared to ___ 
prior exam.
5. New right parietal 6 mm nonenhancing focus of parenchymal 
tissue
abnormality, which may represent subacute to early chronic 
infarct.

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a PMH of HCV cirrhosis s/p 
renal/liver transplant in ___, progressive GBM in corpus 
callosum and left cerebellum presenting with of shaking episodes 
and confusion in the setting of GBM bleeding without evidence of 
seizure on EEG and confusion resolving with naloxone who 
presented after a 25 minute convulsive episode at rehab with 
hypertensive urgency found to have new right parietal subacute 
to early chronic infarction on MRI and admitted to the ICU.

1. ICU course:
Patient was initially intubated for mental status and airway 
protection, however became hypoxic with attempts to wean to 
pressure support. CXR was without definitive opacity, although 
sputum grew 4+ GNRs and GPCs in pairs and he was covered broadly 
with vancomycin and Zosyn. This most likely represented evolving 
pneumonia. Infectious disease was consulted regarding 
infections, and they felt that even with history of MRSA, MRI 
showed no fluid collections to suggest intracranial infection. 
He required sedation while intubated. He was transitioned to 
pressure support ventilation, but given overall prognosis, 
family meeting was held deciding against re-intubation. Patient 
was extubated on ___ and transferred back to oncology 
service. 

2. Glioblastoma:  Patient noted to have progressive GBM, with 
new intralesional hemorrhage on ___, s/p CyberKnife treatment 
(last on ___. Timozolamide had been on hold since last 
admission. Per Neuro-oncology, there were no further treatment 
options. Patient had no epileptiform discharged on EEG while in 
the unit. Etiology of event in his rehab facility may have been 
breakthrough seizure in the setting of infection or 
hypertension. He was continued on IV valproate. His blood 
pressures were controlled with initially labetalol drip and then 
transitioned to PO diltiazem and labetalol. 

3: HCV cirrhosis/ESRD s/p Kidney and Liver Transplant:  As of 
last admission Cr at baseline of 1.2 without significant 
elevation of LFTs.  Evidence of synthetic dysfunction with low 
albumin and elevated INR. He was continued on prednisone, 
tacrolimus with daily levels. 

4: Type II Diabetes Mellitus:  Glargine 10 units qhs with 
sliding scale insulin  

OMED COURSE
Patient transferred to the floor on ___. Family meeting held 
with Mr. ___ health-care proxy, close family members, 
medical team, Palliative Care and social worker. At that time, 
it was decided to transition to comfort measures rather than 
continue life-prolonging interventions given his prognosis and 
previously-communicated wishes. He was placed on Dilaudid drip 
with additional IV q1hr as needed for pain, Ativan q1hr as 
needed for agitation, atropine and scopolamine. Given seizure 
activity noted on ___, a lorazepam drip was started for 
comfort. He expired peacefully on ___ at approximately 10:30pm 
with family at the bedside. The family requested an autopsy 
which will be performed at ___. 
 
Medications on Admission:
1. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
2. Docusate Sodium 100 mg PO BID 
3. Labetalol 300 mg PO TID 
4. Doxycycline Hyclate 100 mg PO Q12H 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. PredniSONE 5 mg PO DAILY 
7. Sertraline 50 mg PO QHS 
8. Tamsulosin 0.4 mg PO QHS 
9. Famotidine 20 mg PO Q12H 
10. nystatin 100,000 unit/gram topical BID groin 
11. Acetaminophen 650 mg PO Q6H pain 
12. Divalproex (DELayed Release) 500 mg PO BID 
13. Diltiazem Extended-Release 240 mg PO DAILY 
14. Tacrolimus 1.5 mg PO Q12H 
15. Senna 8.6 mg PO BID:PRN constipation 
16. Amoxicillin 500 mg PO Q8H 
17. Lisinopril 20 mg PO DAILY 
18. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain
 
Discharge Medications:
Not applicable
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Glioblastoma multiforme
Diabetes mellitus
Liver transplant
Kidney transplant
 
Discharge Condition:
Expired
 
Discharge Instructions:
Not applicable
 
Followup Instructions:
___